US07169791B2
1-[4-Methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoyl]-4-(2-pyridinyl)-piperazine
A solution containing ˜50% of propylphosphonic anhydride in N,N-dimethylformamide (Fluka, Buchs, Switzerland; 674 μL, ˜1 mmol) is added within 20 minutes to a stirred mixture of 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid (214.4 mg, 0.7 mmol), 1-(2-pyridyl)piperazine (Aldrich, Buchs, Switzerland; 114.3 mg, 0.7 mmol) and triethylamine (776 μL, 5.6 mmol) in 2 mL N,N-dimethylformamide. After stirring for 24 hours at room temperature, the mixture is treated with a half-saturated aqueous solution of sodium hydrogen carbonate and extracted three times with ethyl acetate. The solvent is evaporated off under reduced pressure and the residue dried in vacuo. The crude product is purified by column chromatography on silica gel, eluent 5–10% methanol in dichloromethane, to give the title compound as a solid. 1H-NMR (400 MHz, DMSO-d6, δ): 2.31 (s, 3H); 3.35–3.74 (m, 8H); 6.65 (ddd, 1H); 6.79 (d, 1H); 7.13 (dd, 1H); 7.32 (d, 1H); 7.44 (d, 1H); 7.49–7.56 (m, 2H); 7.69 (m, 1H); 8.11 (m, 1H); 8.40 (m, 1H); 8.52 (d, 1H); 8.66 (dd, 1H); 9.06 (s, 1H); 9.24 (m, 1H).

reactant | propylphosphonic anhydride | CCCP(=O)=O | C3H7O2P
reactant | 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid | 0.7 mmol, 214.4 mg | CC1=C(C=C(C(=O)O)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C17H14N4O2
reactant | 1-(2-pyridyl)piperazine | 0.7 mmol, 114.3 mg | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | triethylamine | 5.6 mmol, 776 μL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | ˜1 mmol, 674 μL | CN(C=O)C | C3H7NO
product | 1-[4-Methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoyl]-4-(2-pyridinyl)-piperazine | CC1=C(C=C(C(=O)N2CCN(CC2)C2=NC=CC=C2)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C26H25N7O
